### PR TITLE
[Merged by Bors] - chore(Order/SuccPred/LinearLocallyFinite): change data-creating instances to defs

### PR DESCRIPTION
**Pull request by jcommelin**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Probability/Martingale/OptionalSampling.lean [hunk 1]
```diff
@@ -141,14 +141,18 @@ a subset of `ℕ`. `ι` is equipped with the discrete topology, which is also th
 and is a measurable space with the Borel σ-algebra. -/
 
 
-variable {ι : Type*} [LinearOrder ι] [LocallyFiniteOrder ι] [OrderBot ι] [TopologicalSpace ι]
-  [DiscreteTopology ι] [MeasurableSpace ι] [BorelSpace ι] [MeasurableSpace E] [BorelSpace E]
-  [SecondCountableTopology E] {ℱ : Filtration ι m} {τ σ : Ω → ι} {f : ι → Ω → E} {i : ι}
+variable {ι : Type*} [LinearOrder ι] [LocallyFiniteOrder ι] [OrderBot ι]
+  [TopologicalSpace ι] [OrderTopology ι] [MeasurableSpace ι] [BorelSpace ι]
+  [MeasurableSpace E] [BorelSpace E] [SecondCountableTopology E]
+  {ℱ : Filtration ι m} {τ σ : Ω → ι} {f : ι → Ω → E} {i : ι}
```
Comment (jcommelin) [inline Mathlib/Probability/Martingale/OptionalSampling.lean:147]:
```suggestion
variable {ι : Type*} [LinearOrder ι] [LocallyFiniteOrder ι] [OrderBot ι] [TopologicalSpace ι]
  [OrderTopology ι] [MeasurableSpace ι] [BorelSpace ι] [MeasurableSpace E] [BorelSpace E]
  [SecondCountableTopology E] {ℱ : Filtration ι m} {τ σ : Ω → ι} {f : ι → Ω → E} {i : ι}
```

File: Mathlib/Probability/Martingale/OptionalSampling.lean [hunk 2]
```diff
@@ -142,13 +142,16 @@ and is a measurable space with the Borel σ-algebra. -/
...
+  [OrderTopology ι] [MeasurableSpace ι] [BorelSpace ι] [MeasurableSpace E] [BorelSpace E]
   [SecondCountableTopology E] {ℱ : Filtration ι m} {τ σ : Ω → ι} {f : ι → Ω → E} {i : ι}
 
 theorem condexp_stoppedValue_stopping_time_ae_eq_restrict_le (h : Martingale f ℱ μ)
     (hτ : IsStoppingTime ℱ τ) (hσ : IsStoppingTime ℱ σ) [SigmaFinite (μ.trim hσ.measurableSpace_le)]
     (hτ_le : ∀ x, τ x ≤ i) :
     μ[stoppedValue f τ|hσ.measurableSpace] =ᵐ[μ.restrict {x : Ω | τ x ≤ σ x}] stoppedValue f τ := by
+  have := LinearLocallyFiniteOrder.succOrder ι
+  have := LinearLocallyFiniteOrder.predOrder ι
+  have := discreteTopology_iff_orderTopology_of_pred_succ.mpr ‹_›
```
Comment (jcommelin) [inline Mathlib/Probability/Martingale/OptionalSampling.lean:154]: @urkud Could you please explain why you now want the `OrderTopology` assumption, instead of `DiscreteTopology`?

Comment (urkud) [reply Mathlib/Probability/Martingale/OptionalSampling.lean]: I thought that I need them to state the theorems, but I was wrong. Reverted.

File: Mathlib/Order/SuccPred/LinearLocallyFinite.lean [hunk 3]
```diff
@@ -428,3 +437,9 @@ def orderIsoRangeOfLinearSuccPredArch [OrderBot ι] [OrderTop ι] :
     rw [← @toZ_le_iff ι _ _ _ _ ⊥, Int.toNat_of_nonneg (toZ_nonneg bot_le)]
 
 end OrderIso
+
+instance (priority := 100) Countable.of_linearOrder_locallyFiniteOrder [LocallyFiniteOrder ι] :
+    Countable ι :=
+  have := LinearLocallyFiniteOrder.succOrder ι
+  have := LinearLocallyFiniteOrder.predOrder ι
```
Comment (loefflerd) [inline Mathlib/Order/SuccPred/LinearLocallyFinite.lean:444]: Since `succOrder` and `predOrder` contain data, shouldn't these be `let` (or `letI`) rather than `have`?

File: Mathlib/Probability/Martingale/OptionalSampling.lean [hunk 4]
```diff
@@ -149,6 +149,8 @@ theorem condexp_stoppedValue_stopping_time_ae_eq_restrict_le (h : Martingale f 
     (hτ : IsStoppingTime ℱ τ) (hσ : IsStoppingTime ℱ σ) [SigmaFinite (μ.trim hσ.measurableSpace_le)]
     (hτ_le : ∀ x, τ x ≤ i) :
     μ[stoppedValue f τ|hσ.measurableSpace] =ᵐ[μ.restrict {x : Ω | τ x ≤ σ x}] stoppedValue f τ := by
+  have := LinearLocallyFiniteOrder.succOrder ι
```
Comment (loefflerd) [inline Mathlib/Probability/Martingale/OptionalSampling.lean:152]: It seems a pity to introduce code like this in files like `OptionalSampling` which are definitely far outside the API boundary of order theory. 

If I undestand correctly, these lines are needed in order to synthesize `OrderTopology ι`. But `OrderTopology` is Prop-valued, isn't it? It contains no data. So maybe we should have an instance somewhere much higher up (maybe `Mathlib.Topology.Order.Basic` along the lines of the following:
```
instance {ι : Type*} 
    [LinearOrder ι] [LocallyFiniteOrder ι] [TopologicalSpace ι] [DiscreteTopology ι] : 
    OrderTopology ι := 
  letI := LinearLocallyFiniteOrder.succOrder ι
  letI := LinearLocallyFiniteOrder.predOrder ι
  inferInstance
```
Then the existing code in `OptionalSampling` will "just work".

File: Mathlib/Order/SuccPred/LinearLocallyFinite.lean (hunk 3 above)
Comment (alreadydone) [reply Mathlib/Order/SuccPred/LinearLocallyFinite.lean:444]: If the proof works, I think you are free to use `have`, which might reduce some burden for Lean.

File: Mathlib/Probability/Martingale/OptionalSampling.lean (hunk 4 above)
Comment (loefflerd) [reply Mathlib/Probability/Martingale/OptionalSampling.lean:152]: I think we should add this instance to `Topology/Instances/Discrete`. We would need to add `Order/SuccPred/LinearLocallyFinite` to the imports of that file, but it seems that would only mean a 2% import increase in that file.

Comment (loefflerd) [reply Mathlib/Probability/Martingale/OptionalSampling.lean:152]: (See #20261, which is a PR which I made solely in order to trigger the PR import-testing script, since it was easier than working out how to run the script locally.)

Comment (jcommelin) [reply Mathlib/Probability/Martingale/OptionalSampling.lean:152]: Looks good to me. @urkud Do you agree? If so, we can merge David's branch into this one.

Comment (urkud) [reply Mathlib/Probability/Martingale/OptionalSampling.lean:152]: I have no preferences here.

Comment (jcommelin) [reply Mathlib/Probability/Martingale/OptionalSampling.lean]: Merged and shaken.

**Review by loefflerd — APPROVED** [review]
I think we should go ahead with this.

Not sure if this is appropriate when there are already 2 maintainers involved in the PR, but anyway:

maintainer merge

**Review by Vierkantor — APPROVED** [review]
bors merge
